US05939451
0.314 g (0.001 mol) of 4-amino-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide and 2.5 ml (0.15 mol) of pyrrolidine were stirred in 20 ml of ethanol in an autoclave at 130° C. for 4 hours. The reaction mixture was freed from solvent, the residue was suspended in 5 ml of ethanol and treated in an ultrasound bath for 15 min. The precipitate was filtered off, dissolved in 150 ml of 1N NaOH and filtered. The filtrate was adjusted to pH 6 with 1N HCl. The precipitate was filtered off under suction, washed with water and dried. There was obtained 0.22 g (63%) of 4-amino-N-(2-methylamino-6-pyrrolidin-1-yl-pyrimidin-4-yl)-benzenesulfonamide as beige crystals; m.p.: >300° C.

reactant | 4-amino-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.001 mol, 0.314 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)NC | C11H12ClN5O2S
reactant | pyrrolidine | 0.15 mol, 2.5 ml | N1CCCC1 | C4H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-amino-N-(2-methylamino-6-pyrrolidin-1-yl-pyrimidin-4-yl)-benzenesulfonamide | 0.22 g, 63% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)N1CCCC1)NC | C15H20N6O2S
